### PR TITLE
[Merged by Bors] - feat(Order/Partition/Basic): partitions of lattice elements

### PR DESCRIPTION
**Pull request by apnelson1**
This provides a version of `Finpartition` where the partition can have infinitely many parts. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Partition/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,118 @@
...
+An important special case is where `s : Set α`, where a `Partition s` corresponds to a partition
+of the elements of `s` into a family of nonempty sets.
+This is equivalent to a transitive and symmetric binary relation `r : α → α → Prop`
+where `s` is the set of all `x` for which `r x x`.
+
+## Main definitions
+
+* For `[CompleteLattice α]` and `s : α`, a `Set.Partition s` is an independent collection of
+  nontrivial elements whose supremum is `s`.
+
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:24]: Can we have TODOs to 
a) Link this to the finpartition version
b) Give helper lemmas for the (common) set case
(for the latter, things like restating sSup_parts_eq in terms of set unions, and `le_of_mem` as `subset_of_mem` are examples - I'm happy for them to be in other PRs rather than here but they should be in mathlib eventually)

File: Mathlib/Order/Partition/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,118 @@
...
+@[ext] lemma ext {P Q : Partition s} (hP : ∀ x, x ∈ P ↔ x ∈ Q) : P = Q :=
+  SetLike.ext hP
+
+lemma disjoint (hx : x ∈ P) (hy : y ∈ P) (hxy : x ≠ y) :
+    Disjoint x y :=
+  P.indep.pairwiseDisjoint hx hy hxy
+
+lemma pairwiseDisjoint : Set.PairwiseDisjoint (P : Set α) id :=
+  fun _ hx _ hy hxy ↦ P.disjoint hx hy hxy
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:62]:
```suggestion
  P.indep.pairwiseDisjoint
```
maybe? (untested, but from the way this and the previous lemma are proved, it looks like it might work)

File: Mathlib/Order/Partition/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,118 @@
...
+
+@[simp]
+lemma sSup_eq (P : Partition s) : sSup P = s :=
+  P.sSup_parts_eq
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:66]: I'm guessing this is restated so that it's written with the coercion rather than with .parts? If so, the usual pattern here is to call the field `sSup_eq'` and this one `sSup_eq`

Comment (b-mehta) [reply Mathlib/Order/Partition/Basic.lean:66]: (you might also want to do similar for bot_not_mem, and also make that one simp)

File: Mathlib/Order/Partition/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,118 @@
...
+
+@[simp]
+lemma coe_copy_eq {t : α} {P : Partition s} (hst : s = t) : (P.copy hst : Set α) = P := rfl
+
+@[simp]
+lemma mem_copy_iff {t x : α} {P : Partition s} (hst : s = t) : x ∈ P.copy hst ↔ x ∈ P := Iff.rfl
+
+/-- The natural equivalence between the subtype of parts and the subtype of parts of a copy. -/
+@[simps!]
+def partscopyEquiv {t : α} (P : Partition s) (hst : s = t) : ↥P ≃ ↥(P.copy hst) :=
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:101]: I'd say this equivalence should be the other way round, just like `coe_copy_eq`

File: Mathlib/Order/Partition/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,118 @@
...
+@[simps]
+def removeBot (P : Set α) (indep : sSupIndep P) (sSup_eq : sSup P = s) : Partition s where
+  parts := P \ {⊥}
+  indep := indep.mono diff_subset
+  bot_not_mem := by simp
+  sSup_parts_eq := by simp [← sSup_eq]
+
+@[simp]
+lemma coe_removeBot_eq (P : Set α) (indep) (sSup_eq : sSup P = s) :
+    (removeBot P indep sSup_eq : Set α) = P \ {⊥} := rfl
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:114]: Hmm, in principle `simps` should be making this lemma itself. What does it give instead?

Comment (apnelson1) [reply Mathlib/Order/Partition/Basic.lean:114]: It gives `(removeBot P indep sSup_eq).parts = P \ {⊥} `

Comment (b-mehta) [reply Mathlib/Order/Partition/Basic.lean:123]: I think this is a sign that the simps configuration for the new declaration is bad.
I'd hope that the fix of this is something like ilnes 45-48 from https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Topology/Sets/Compacts.lean, when put just after the SetLike instance, will make simps work here.

File: Mathlib/Order/Partition/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,127 @@
...
+
+open Set
+
+/-- A `Partition` of an element `s` of a `CompleteLattice` is a collection of
+independent nontrivial elements whose supremum is `s`.  -/
+structure Partition [CompleteLattice α] (s : α) where
+  /-- The collection of parts-/
+  parts : Set α
+  /-- The parts are `sSupIndep`-/
+  indep : sSupIndep parts
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:41]:
```suggestion
  sSupIndep : sSupIndep parts
```

File: Mathlib/Order/Partition/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,127 @@
...
+  rfl
+
+lemma le_of_mem (P : Partition s) (hx : x ∈ P) : x ≤ s :=
+  (le_sSup hx).trans_eq P.sSup_eq
+
+lemma parts_nonempty (P : Partition s) (hs : s ≠ ⊥) : (P : Set α).Nonempty :=
+  nonempty_iff_ne_empty.2 fun hP ↦ by simp [← P.sSup_eq, hP, sSup_empty] at hs
+
+@[simp]
+lemma bot_not_mem (P : Partition s) : ⊥ ∉ P :=
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:85]: Can we have one like this for `indep` too? Though now that I think about it, it seems clearer to just use PairwiseDisjoint in the definition directly. The point of supIndep in the finset one is that it allows milder typeclass assumptions, but in a complete lattice (which you do need here), it's just a less well-known but equivalent description.

File: Mathlib/Order/Partition/Basic.lean (hunk 5 above)
Comment (apnelson1) [reply Mathlib/Order/Partition/Basic.lean]: Ok, I think I fixed this.

File: Mathlib/Order/Partition/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,132 @@
...
+  P.bot_not_mem'
+
+@[simp]
+lemma sSupIndep (P : Partition s) : sSupIndep (P : Set α) :=
+  P.sSupIndep'
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:95]: nit: can we put this before the lemma `disjoint`, and use it there? Similarly let's use `sSup_eq` in the proof of `iSup_eq` rather than `sSup_eq'`.

File: Mathlib/Order/Partition/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,132 @@
...
+/-- Convert a `Partition s` into a `Partition t` via an equality `s = t`. -/
+@[simps]
+protected def copy {t : α} (P : Partition s) (hst : s = t) : Partition t where
+  parts := P.parts
+  sSupIndep' := P.sSupIndep
+  bot_not_mem' := P.bot_not_mem
+  sSup_eq' := hst ▸ P.sSup_eq
+
+@[simp]
+lemma coe_copy_eq {t : α} {P : Partition s} (hst : s = t) : (P.copy hst : Set α) = P := rfl
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:112]: This one should come from simps too now?

File: Mathlib/Order/Partition/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,132 @@
...
+lemma ne_bot_of_mem (hx : x ∈ P) : x ≠ ⊥ :=
+  fun h ↦ P.bot_not_mem <| h ▸ hx
+
+lemma bot_lt_of_mem (hx : x ∈ P) : ⊥ < x :=
+  bot_lt_iff_ne_bot.2 <| P.ne_bot_of_mem hx
+
+/-- Convert a `Partition s` into a `Partition t` via an equality `s = t`. -/
+@[simps]
+protected def copy {t : α} (P : Partition s) (hst : s = t) : Partition t where
+  parts := P.parts
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Basic.lean:106]:
```suggestion
  parts := P
```
untested, but I hope this should work

**Review by b-mehta — COMMENTED** [review]
bors d+

**Comment by apnelson1** [comment]
thanks, @b-mehta

bors r+
